* Negative control 2/2 for the trivial_mos_array LVS proof (issue #2):
* a topology-only corruption (M2's drain shorted onto M1's drain net,
* device parameters untouched) -- the "net.merged" corruption class per
* klt's own LVS field notes (docs/cli/lvs.md, "Negative controls: two
* independent corruptions" in the klayout-tools repo). Must report
* status "mismatch". See layout/README.md for the run and its recorded
* result.
*
* 4 M-cards (real devices only), matching reference.spice's own device count.
.SUBCKT trivial_mos_array vsubs
M1 d1 g1 s1 vsubs nfet L=0.28U W=0.42U
M2 d1 g2 s2 vsubs nfet L=0.28U W=0.42U
M3 d3 g3 s3 vsubs nfet L=0.28U W=0.42U
M4 d4 g4 s4 vsubs nfet L=0.28U W=0.42U
.ENDS trivial_mos_array
